US08703761B2
A. 2-amino-N-(1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-yl)-2-methylpropanamide
A flask containing {1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester (777 mg, 1.59 mmol) was chilled to 0° C. The solid was dissolved in 48% aqueous HBr (5 mL) and the mixture stirred at 0° C. After 10 min the mixture was allowed to warm to room temp. After 5.5 hr THF (5 mL) was added and the mixture was stirred for 2 days. The reaction was diluted with water (30 mL) and extracted with Et2O (2×50 mL). The pH of the aqueous phase was adjusted to 10 by addition of 4N NaOH. The basic aqueous phase was extracted with Et2O (2×50 mL). The organics from the second extraction were combined and dried with brine (15 mL) followed by Na2SO4. Concentration resulted in a brown oil. The oil was dissolved in EtOAc/MeOH and the solvent evaporated to yield the title compound as a white solid: 1H NMR (400 MHz, ACETONITRILE-d3) 1.53 (s, 6H) 5.38 (s, 2H) 7.08-7.19 (m, 2H) 7.19-7.28 (m, 2H) 7.28-7.39 (m, 3H) 7.60-7.69 (m, 2H); Rt (method A)=0.96 min (M+H)+=354.2.

reactant | {1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester | 1.59 mmol, 777 mg | C(C1=CC=CC=C1)OC(NC(C)(C)C(NC1=NN(C(=N1)C1=CC=C(C=C1)F)CC1=CC=CC=C1)=O)=O | C27H26FN5O3
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | HBr | 5 mL | Br | BrH
solvent | water | 30 mL | O | H2O
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | 2-amino-N-(1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-yl)-2-methylpropanamide | NC(C(=O)NC1=NN(C(=N1)C1=CC=C(C=C1)F)CC1=CC=CC=C1)(C)C | C19H20FN5O
